US09388199B2
D. (1R,3S,5R)-2-[2-(3-Acetyl-pyrazolo[3,4-b]pyridin-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid
Allyl palladium chloride dimer (0.084 g, 0.231 mmol) and 2-di-tert-butylphosphino-2′-methylbiphenyl (0.288 g, 0.923 mmol) were dissolved in DMF (7.69 mL) under an argon atmosphere. The reaction mixture was stirred at RT for 10 min. After cooling the reaction mixture to 10° C., formic acid (0.513 mL, 13.38 mmol) was added followed by Et3N (1.86 mL, 13.38 mmol) and a solution of (1R,3S,5R)-2-[2-(3-acetyl-pyrazolo[3,4-b]pyridin-1-yl)acetyl]-2-azabicyclo[3.1.0]hexane-3-carboxylic acid allyl ester (1 g, 2.3 mmol) in DMF (15.4 mL). The reaction mixture was stirred at 10° C. for 1 h. DMF was evaporated. The residue was poured into NH4Cl (sat. aq. solution) and extracted with EtOAc (3×50 mL). The organic layers were combined, dried over Na2SO4, filtered and concentrated. The residue was dissolved in MeOH and filtered over a PL-Thiol cartridge. The filtrate was concentrated and the crude residue was purified by preparative HPLC (Waters Sunfire C18-OBD, 5 μm, 30×100 mm, flow: 40 mL/min, eluent: 5% to 80% CH3CN in H2O in 20 min, CH3CN and H2O containing 0.1% TFA) and the pure fractions were combined and lyophilized. White solid. MS (LCMS): 328.9 [M+H]+, 351.0 [MH+Na]; tR (HPLC conditions c): 1.84 min. 1H NMR (400 MHz, DMSO-d6): δ (ppm) 8.66 (dd, J=4.52, 1.59 Hz, 1H), 8.58 (m, J=6.36 Hz, 1H), 7.35-7.50 (m, 1H), 8.54-8.61 (m, 1H), 5.88 (d, J=16.87 Hz, 1H), 5.55 (d, J=17.12 Hz, 1H), 4.14-4.24 (m, 1H), 3.75-3.83 (m, 1H), 2.64 (s, 3H), 2.26-2.36 (m, 1H), 2.10-2.23 (m, 1H), 1.80-1.95 (m, 1H), 0.95-1.07 (m, 1H), 0.67-0.81 (m, 1H).

reactant | 2-di-tert-butylphosphino-2′-methylbiphenyl | 0.923 mmol, 0.288 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=CC=C1)C)C(C)(C)C | C21H29P
reactant | formic acid | 13.38 mmol, 0.513 mL | C(=O)O | CH2O2
reactant | Et3N | 13.38 mmol, 1.86 mL | CCN(CC)CC | C6H15N
reactant | (1R,3S,5R)-2-[2-(3-acetyl-pyrazolo[3,4-b]pyridin-1-yl)acetyl]-2-azabicyclo[3.1.0]hexane-3-carboxylic acid allyl ester | 2.3 mmol, 1 g | C(C=C)OC(=O)[C@H]1N([C@@H]2C[C@@H]2C1)C(CN1N=C(C=2C1=NC=CC2)C(C)=O)=O | C19H20N4O4
solvent | DMF | 7.69 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15.4 mL | CN(C)C=O | C3H7NO
catalyst | Allyl palladium chloride dimer | 0.231 mmol, 0.084 g | [CH2-]C=C.[CH2-]C=C.Cl[Pd+].Cl[Pd+]
product | (1R,3S,5R)-2-[2-(3-Acetyl-pyrazolo[3,4-b]pyridin-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid | C(C)(=O)C1=NN(C2=NC=CC=C21)CC(=O)N2[C@@H]1C[C@@H]1C[C@H]2C(=O)O | C16H16N4O4
